US04892680
One mol (172 g) of α-naphthoic acid, 1.5 mol (195 g) of octyl alcohol and 3 ml of conc. H2SO4 were charged into a four-necked flask, and the whole was heated to 120° C. under agitation for 5 hours in a nitrogen atmosphere. After the end of the reaction, the resulting reaction mixture was cooled, freed from the water, sulfuric acid, unreacted naphthoic acid and alcohol by the use of a separating funnel and then distilled under a reduced pressure to obtain 230 g of octyl-1-naphthoate having a boiling point of 200°-202° C./4 mmHg.

reactant | α-naphthoic acid | One mol, 172 g | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | octyl alcohol | 1.5 mol, 195 g | C(CCCCCCC)O | C8H18O
reactant | H2SO4 | 3 ml | OS(=O)(=O)O | H2O4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | naphthoic acid | C=1C=CC=2C(C1)=CC=CC2C(=O)O | C11H8O2
solvent | water | O | H2O
product | octyl-1-naphthoate | 230 g | C(CCCCCCC)OC(=O)C1=CC=CC2=CC=CC=C12 | C19H24O2
